US07192982B2
(2S)-3-{4-[5-(Biphenyl-4-yloxy)-pent-1-ynyl]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester and 4-phenylphenol via the standard Mitsunobu coupling-hydrolysis procedure (Standard Procedure A) to produce a white oily solid. 1H-NMR (200.15 MHz, CDCl3): δ 7.56–7.28 (m, 9H), 7.15 (d, 2H, J=8.4), 6.98 (d, 2H, J=8.8), 4.15 (t, 2H, J=6.2), 3.97 (dd, 1H, J=7.7, 4.4), 3.36 (s, 3H), 3.11 (dd, 1H, J=14.3, 4.4), 2.97 (dd, 1H, J=14.3, 7.7), 2.62 (t, 2H, J=7.0), 2.08 (qn, 2H, J=6.6).

reactant | (2S)-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)C#CCCCO)OC)=O | C17H22O4
reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
product | (2S)-3-{4-[5-(Biphenyl-4-yloxy)-pent-1-ynyl]-phenyl}-2-methoxy-propionic acid | C1(=CC=C(C=C1)OCCCC#CC1=CC=C(C=C1)C[C@@H](C(=O)O)OC)C1=CC=CC=C1 | C27H26O4
